US09428528B2
Step 5 Preparation of N-(7-Bromo-imidazo[1,2-a]pyridin-2-ylmethyl)-methane sulfonamide
To a stirred solution of C-(7-Bromo-imidazo[1,2-a]pyridin-2-yl)-methylamine (310 mg, 1.371 mmol) in CH2Cl2 (5 mL) is added triethyl amine (0.23 mL), 1.64 mmol) followed by methane sulfonyl chloride (0.112 mL, 1.371 mmol) at 0° C. then stirred at room temperature for 2 hours. The reaction mixture is diluted with water and extracted with CH2Cl2. Organic layer is dried over sodium sulphate, solvent is evaporated in vacuo and purified by column chromatography eluting in 2% methanol:CH2Cl2 to afford the title compound (130 mg). 1H-NMR (400 MHz, DMSO-d6) δ: 2.91 (s, 3H), 4.25 (d, J=6.08 Hz, 2H), 7.04-7.06 (dd, J1=1.88 Hz, J2=7.24 Hz, 1H), 7.58 (t, J=6.12 Hz, 1H), 7.81 (d, J=0.88 Hz, 1H), 7.89 (s, 1H), 8.51 (d, J=7.04 Hz, 1H). LC-MS (m/z): [M+H]=306.0.

reactant | C-(7-Bromo-imidazo[1,2-a]pyridin-2-yl)-methylamine | 1.371 mmol, 310 mg | BrC1=CC=2N(C=C1)C=C(N2)CN | C8H8BrN3
reactant | triethyl amine | 0.23 mL | C(C)N(CC)CC | C6H15N
reactant | methane sulfonyl chloride | 1.371 mmol, 0.112 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | N-(7-Bromo-imidazo[1,2-a]pyridin-2-ylmethyl)-methane sulfonamide | 130 mg | BrC1=CC=2N(C=C1)C=C(N2)CNS(=O)(=O)C | C9H10BrN3O2S
